US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(3,4,5-trimethoxybenzoyl)-4-(2,6- dimethylanilino)butyric acid and methyl 4-aminobutyrate and suitable processing produces methyl N-[N-(3,4,5-trimethoxybenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyrate (M.P. 97° to 99°), saponification of which and processing of the reaction product yields N-[N-(3,4,5-trimethoxybenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyric acid (M.P. 100° to 101°).

reactant | N-(3,4,5-trimethoxybenzoyl)-4-(2,6- dimethylanilino)butyric acid | COC=1C=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)O)C=C(C1OC)OC | C22H27NO6
reactant | methyl 4-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl N-[N-(3,4,5-trimethoxybenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyrate | COC=1C=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)NCCCC(=O)OC)C=C(C1OC)OC | C27H36N2O7
